US07960409B2
Step 1: 3-(Trifluoromethyl)-1-(triisopropylsilyl)hex-5-en-1-yn-3-ol
To a solution of 1,1,1-trifluoro-4-(triisopropylsilyl)but-3-yn-2-one (3.00 g, 10.8 mmol) in CH2Cl2 (80 mL) at 0° C., was added a THF solution of allylmagnesium chloride (2.0 M, 8.08 mL, 16.2 mmol). After 1 h, a saturated solution of NH4Cl was added. The aqueous layer was extracted with CHCl3 (3×), and the combined organic layers were washed with H2O and brine, dried (Na2SO4) and concentrated under vacuum at 30° C. affording the title compound (3.63 g). 1H NMR (400 MHz, acetone-d6): 6.02 (m, 2H), 5.20-5.27 (m, 2H), 2.62 (m, 2H), 1.10 (m, 21H).

reactant | 1,1,1-trifluoro-4-(triisopropylsilyl)but-3-yn-2-one | 10.8 mmol, 3.00 g | FC(C(C#C[Si](C(C)C)(C(C)C)C(C)C)=O)(F)F | C13H21F3OSi
reactant | THF | C1CCOC1 | C4H8O
reactant | allylmagnesium chloride | 16.2 mmol, 2.0 M, 8.08 mL | C(C=C)[Mg]Cl
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 3-(Trifluoromethyl)-1-(triisopropylsilyl)hex-5-en-1-yn-3-ol | 3.63 g | FC(C(C#C[Si](C(C)C)(C(C)C)C(C)C)(CC=C)O)(F)F | C16H27F3OSi
